US06235771B1
To methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (6.5 g) was added toluene/ethanol/water (10/1/1,188 ml) and then were added 4-(2-propoxyethoxy)phenyl borate (5.3 g) and potassium carbonate (6.0 g), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphinepalladium (0.9 g), and the mixture was refluxed for 14 hours and cooled to room temperature. The mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=3/2) to give methyl 7-[4-(2-propoxyethoxy)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (6.5 g).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 6.5 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | toluene ethanol water | 1,188 ml | C1(=CC=CC=C1)C.C(C)O.O
reactant | 4-(2-propoxyethoxy)phenyl borate | 5.3 g | B(OC1=CC=C(C=C1)OCCOCCC)([O-])[O-]
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakistriphenylphosphinepalladium | 0.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | methyl 7-[4-(2-propoxyethoxy)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 6.5 g | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C23H26O6S
